US20010049441A1
1-Benzoyl-3-(1-methyl-1,2,3,6-tetrahydro-4-pyridinyl)-7-azaindole;
(6.7 mg, 18%); from 3-(1-methyl-1,2,3,6-tetrahydro-4-pyridinyl)-1 H-7-azaindole (25.0 mg, 0.12 mmol) and benzoyl chloride (28 μL, 0.24 mmol); HRMS-FAB+ for C20H19N3O: calculated MH+:318.16064; found:318.16191.

reactant | 3-(1-methyl-1,2,3,6-tetrahydro-4-pyridinyl)-1 H-7-azaindole | 0.12 mmol, 25.0 mg | CN1CCC(=CC1)C1=CNC2=NC=CC=C12 | C13H15N3
reactant | benzoyl chloride | 0.24 mmol, 28 μL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | 1-Benzoyl-3-(1-methyl-1,2,3,6-tetrahydro-4-pyridinyl)-7-azaindole | C(C1=CC=CC=C1)(=O)N1C=C(C2=CC=CN=C12)C=1CCN(CC1)C | C20H19N3O
